US03941803
In the manner given in Preparation 11, 2-amino-5-fluorobenzophenone hydrazone is refluxed with potassium hydroxide in diethylene glycol to give 4-fluoro-α-phenyl-o-toluidine.

reactant | 2-amino-5-fluorobenzophenone hydrazone | NC1=C(C(C2=CC=CC=C2)=NN)C=C(C=C1)F | C13H12FN3
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 4-fluoro-α-phenyl-o-toluidine | FC=1C=C(C(N)=CC1)CC1=CC=CC=C1 | C13H12FN
